US04028372
To a mixture of 14.1 parts of 4,5,6,7-tetrachloro-1,3-diiminoisoindoline, 6.7 parts of 2-oxo-4-thioxothiazolidine and 10.0 parts of freshly prepared, ground anhydrous sodium acetate, there was added 157 parts of glacial acetic acid. The resulting slurry was heated at reflux under a continuous flow of nitrogen for approximately one hour. The reaction solution was cooled to room temperature, sealed under an atmosphere of nitrogen and set aside for about sixty hours. The solid which separated on standing was collected by filtration at room temperature, washed five times, each with 21.0 parts glacial acetic acid and then a total of eight times, each with 20.0 parts distilled water. The water-wet pulp was stirred with 90.0 parts of 28 percent aqueous ammonia, filtered to remove any insolubles and the product reprecipitated by adjusting the pH of the solution to 6.0 by the addition of 99.2 parts of 6N hydrochloric acid solution. The solid was collected by filtration, washed with 3000 parts of water and air dried at 60° C. to obtain 1-imino-4,5,6,7-tetrachloro-3-(2-oxo-4-thioxo-5-thiazolidinylidene)isoindoline as a brown powder which did not melt up to 340° C.

reactant | 4,5,6,7-tetrachloro-1,3-diiminoisoindoline | ClC1=C2C(NC(C2=C(C(=C1Cl)Cl)Cl)=N)=N | C8H3Cl4N3
reactant | 2-oxo-4-thioxothiazolidine | O=C1SCC(N1)=S | C3H3NOS2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-imino-4,5,6,7-tetrachloro-3-(2-oxo-4-thioxo-5-thiazolidinylidene)isoindoline | N=C1NC(C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)=C1C(NC(S1)=O)=S | C11H3Cl4N3OS2
